US05536701
Methylhydrazine (2.6 g, 0.056 mole) was added to a solution of ethyl 3,3-diethoxyacrylate (10.0 g, 0.053 mole) in ethanol (50 mL) and the mixture was heated and held at reflux for 18 hours. After cooling, water, saturated brine, and 3 mL of concentrated sulfuric acid were added; and the product was extracted with ethyl acetate. The combined extracts were dried with magnesium sulfate, filtered and concentrated in vacuo. Purification by chromatography on silica gel using ethyl acetate/cyclohexane gave 5-ethoxy-2,4-dihydro-2-methyl-3H-pyrazol-3-one (3.2 g, 42% yield) as a white solid, mp=79°-80° C.

reactant | Methylhydrazine | 0.056 mole, 2.6 g | CNN | CH6N2
reactant | ethyl 3,3-diethoxyacrylate | 0.053 mole, 10.0 g | C(C)OC(=CC(=O)OCC)OCC | C9H16O4
reactant | water | O | H2O
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 5-ethoxy-2,4-dihydro-2-methyl-3H-pyrazol-3-one | 3.2 g, 42% yield | C(C)OC=1CC(N(N1)C)=O | C6H10N2O2
